US04120969
4,5-Dihydro-4-cyclohexylaminomethyl-3,3-diphenylfuran-2(3H)one
To 41.0 g. (0.12 mole) of α-(1-cyclohexyl-3-azetidinyl)-α,α-diphenylacetonitrile was added 100 g. of a 70% solution of sulfuric acid, and the mixture was stirred and heated at 120° C. for 48 hrs. The solution was then poured over ice and made basic with 50% sodium hydroxide, and extracted with chloroform. The organic layer was dried, filtered, and concentrated in vacuo. The residue was crystallized twice from isopropyl ether, the crystallized material weighed 8.0 g. (20% yield) and melted at 129°-131° C.

reactant | α-(1-cyclohexyl-3-azetidinyl)-α,α-diphenylacetonitrile | 0.12 mole | C1(CCCCC1)N1CC(C1)C(C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H26N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4,5-Dihydro-4-cyclohexylaminomethyl-3,3-diphenylfuran-2(3H)one | 20% yield | C1(CCCCC1)NCC1C(C(OC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H27NO2
